US05236952
A solution of 2.0 g of o-acetylphenyl 3,4-dimethoxy-5-nitrobenzoate in 12.5 ml of glacial acetic acid is treated with 0.94 g of sodium acetate and held at the reflux temperature for 4 hours. After cooling the mixture is poured into ice-water. The separated crystals are filtered under suction. After recrystallization from ethyl acetate/hexane there is obtained 2-(3,4-dimethoxy-5-nitrophenyl)-4H-1-benzopyran-4-one in the form of colorless crystals of m.p. 216°-217°.

reactant | o-acetylphenyl 3,4-dimethoxy-5-nitrobenzoate | 2.0 g | COC=1C=C(C(=O)OC2=C(C=CC=C2)C(C)=O)C=C(C1OC)[N+](=O)[O-] | C17H15NO7
reactant | sodium acetate | 0.94 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | 2-(3,4-dimethoxy-5-nitrophenyl)-4H-1-benzopyran-4-one | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1OC2=C(C(C1)=O)C=CC=C2 | C17H13NO6
